US05387397
Malonic acid (104 g; 1 mole) was dissolved in a mixture of furfural (96 g; 1 mole), pyridine (72 ml) and ethanol (10 ml) and pumped through the CMR (15 ml/min; 165° C.; 1200 kPa). The product mixture was diluted with diethyl ether (200 ml) and washed with 5% aqueous sulphuric acid (4×200 ml) to remove most of the pyridine. The remaining solution was evaporated to dryness on a rotary evaporator and the resultant 2-furanacrylic acid (25 g; 18% yield) crystallised from water m. p. 141° C. The MS was in close agreement with spectrum in the MS library. For a convention preparation see ref.18.

reactant | Malonic acid | 1 mole, 104 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | furfural | 1 mole, 96 g | C(C1=CC=CO1)=O | C5H4O2
reactant | water | O | H2O
solvent | pyridine | 72 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-furanacrylic acid | 25 g, 18% yield | O1C(=CC=C1)C=CC(=O)O | C7H6O3
